US08372870B2
Step 1. 4-Amino-N-hydroxy-1,2,5-oxadiazole-3-carboximidoyl chloride
A solution of 3 M of hydrogen chloride in water (190 mL) was treated with 4-amino-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide [J. Heterocycl. Chem. (1965), 2, 253] (7.3 g, 0.051 mol) at 0° C. The reaction mixture was treated with enough 12 M hydrogen chloride (˜19 mL) to dissolve the solid and then treated with a solution of sodium nitrite (4.4 g, 0.063 mol) in water (24 mL) dropwise while maintaining an internal temperature at 0-5° C. with an ice/brine bath. The reaction mixture was stirred at 0° C. for 1.5 h and filtered to yield a beige solid. Purification of the crude mixture by preparative HPLC gave the desired product (1.7 g, 21%) as an off-white solid.

reactant | hydrogen chloride | 3 M | Cl | ClH
reactant | 4-amino-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide | 0.051 mol, 7.3 g | NC=1C(=NON1)C(N)=NO | C3H5N5O2
reactant | hydrogen chloride | 12 M, ˜19 mL | Cl | ClH
reactant | sodium nitrite | 0.063 mol, 4.4 g | N(=O)[O-].[Na+]
solvent | water | 190 mL | O | H2O
solvent | water | 24 mL | O | H2O
product | 4-Amino-N-hydroxy-1,2,5-oxadiazole-3-carboximidoyl chloride | 1.7 g, 21% | NC=1C(=NON1)C(=NO)Cl | C3H3ClN4O2
